US09079853B2
3-hydroxy-3-(3-methoxybenzyl)-5-methyl-1-propylindolin-2-one
This compound was made in an analogous fashion to 11-ethyl-3-hydroxy-5-methyl-3-(3,4,5-trimethoxybenzyl)indolin-2-one using 5-methyl-2-oxo-1-propylindolin-3-yl benzoate and 3-methoxy benzyl chloride (purchased from Fisher Scientific). 1H NMR δ 7.12 (s, 1H), 7.04 (m, 2H), 6.69 (d, 1H), 6.55 (t, 2H), 6.43 (s, 1H), 3.61 (m, 4H), 3.29 (m, 2H), 3.16 (d, 1H), 2.89 (bs, OH), 2.32 (s, 3H), 1.39 (m, 2H), 0.74 (t, 3H). Calculated mass for C20H23NO3, 325.17. Observed 348.1 (M+Na).

reactant | 5-methyl-2-oxo-1-propylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CCC)=O | C19H19NO3
reactant | 3-methoxy benzyl chloride | COC=1C=C(CCl)C=CC1 | C8H9ClO
product | 3-hydroxy-3-(3-methoxybenzyl)-5-methyl-1-propylindolin-2-one | OC1(C(N(C2=CC=C(C=C12)C)CCC)=O)CC1=CC(=CC=C1)OC | C20H23NO3
